* C:\Users\pig\Documents\ee308\ee308\lab1\output amplifier.asc
R1 N002 N003 2k
R2 N002 N009 2k
R3 N011 N016 50
R4 N013 N016 50
Q1 N003 in N011 0 2N3904
R5 N016 N019 3k
Q2 N009 N006 N013 0 2N3904
R6 N006 0 500
R7 out N006 5k
R8 N017 N019 1k
Q6 N004 N005 N008 0 2N3904
Q9 N018 N017 N015 0 2N3906
R9 N008 out 5
R10 out N015 5
R12 N019 out 50
R13 N012 N011 160
C2 N013 N012 330p
V1 N002 0 12
V2 0 N019 12
V3 in 0 AC 1
Q3 N005 N003 N002 0 2N3906
D1 N014 N017 1N4148
D2 N005 N014 1N4148
R16 N018 N019 100
R14 N002 N004 100
C1 out N006 2p
.model D D
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.bjt
* want output centered at 6V\nbiasing to 2mA from BK3001\nR=(12-6)/1mA=6k
* choose diff gain G=10\nre=25mV/Ic\n10=6k/(2(Re+re)) =>Re=275
* choose common mode gain of 0.5\n0.5=6k/(2Rtail+Re+re) => Rtail=5.85k
* from app notes
.ac oct 100 1k 1Gig
* (+)
* (-)
* .tran 20u
.op
* pot
.backanno
.end
