* C:\Users\pig\Documents\ee308\ee308\lab1\output amplifier.asc
R1 N001 N003 1k
R2 N001 N006 1k
R3 N009 N014 50
R4 N011 N014 50
Q1 N003 in N009 0 2N3904
R5 N014 N017 3k
Q2 N006 N008 N011 0 2N3904
R6 N008 0 100
R7 out N008 6k
R8 N015 N017 2k
Q6 N002 N004 N005 0 2N3904
Q9 N016 N015 N013 0 2N3906
R9 N005 out 20
R10 out N013 20
RL 0 out 50
R13 N010 N009 10
C2 N011 N010 750p
V1 N001 0 12
V2 0 N017 12
V3 in 0 SINE(0 10m {freq}) AC 1
Q3 N004 N003 N001 0 2N3906
D1 N012 N015 1N4148
D2 N004 N012 1N4148
R16 N016 N017 200
R14 N001 N002 200
C1 out NC_01 2p
C3 N002 0 550p
C4 N016 0 550p
.model D D
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac oct 100 1 1Gig
* (+)
* (-)
* .tran 20u
.op
* pot
* .step param tol 0 300p 50p
.net I(RL) V3
.param freq=2Meg
.four {freq} 10 5 V(out)
.backanno
.end
